US04051176
To a stirred solution of 3.0 g of 8,8'-[(5-amino-m-phenylene)bis(carbonylimino)]di-1,3,6-naphthalenetrisulfonic acid, hexasodium salt in 45 ml of water is added 3.0 g of m-fluorosulfonylphenylisocyanate. Stirring is continued for 6 hours at room temperature, the resulting mixture is heated to about 95° C and is filtered through diatomaceous earth. The filter pad is washed with 40 ml of hot water and the filtrate is diluted with 500 ml of anhydrous ethanol while heating in a steam bath. The solution is filtered after standing at room temperature for 72 hours and the precipitate is washed with absolute ethanol followed by ether to give 8,8'-{{5-{3-[m-(fluorosulfonyl)phenyl]ureido}-1,3-phenylene}bis(carbonylimino)}di-1,3,6-naphthalenetrisulfonic acid, hexasodium salt.

reactant | 8,8'-[(5-amino-m-phenylene)bis(carbonylimino)]di-1,3,6-naphthalenetrisulfonic acid | 3.0 g | NC=1C=C(C=C(C1)C(=O)NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O)C(=O)NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C28H21N3O20S6
reactant | m-fluorosulfonylphenylisocyanate | 3.0 g | FS(=O)(=O)C=1C=C(C=CC1)N=C=O | C7H4FNO3S
solvent | water | 45 ml | O | H2O
product | 8,8'-{{5-{3-[m-(fluorosulfonyl)phenyl]ureido}-1,3-phenylene}bis(carbonylimino)}di-1,3,6-naphthalenetrisulfonic acid | FS(=O)(=O)C=1C=C(C=CC1)NC(NC=1C=C(C=C(C1)C(=O)NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O)C(=O)NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O)=O | C35H25FN4O23S7
